US05726208
Step A: trans-3-[2-(N,N-dipropylamino)-1,2,3,4-tetrahydronaphth-6-yl]prop-2-enoic acid methyl ester
3.1 g (0.01 mol) of 6-bromo-2-(N,N-dipropylamino)-1,2,3,4-tetrahydronaphthalene are dissolved in 50 ml of dimethylformamide. There are added in succession to that solution 0.94 g (0.011 mol) of methyl acrylate, 22.4 mg (0.1 mmol) of palladium acetate, 121 mg (0.4 mmol) of tri-ortho-tolylphosphine and 1.6 ml (0.011 mol) of triethylamine. The mixture is heated at 125°-130° C. for 3 h 30 min. with stirring, cooled, poured into 700 ml of water, extracted with ethyl acetate and washed with a solution of LiCl. After acid to base change, 0.9 g of the expected product is obtained.

reactant | 6-bromo-2-(N,N-dipropylamino)-1,2,3,4-tetrahydronaphthalene | 0.01 mol, 3.1 g | BrC=1C=C2CCC(CC2=CC1)N(CCC)CCC | C16H24BrN
reactant | methyl acrylate | 0.011 mol, 0.94 g | C(C=C)(=O)OC | C4H6O2
reactant | tri-ortho-tolylphosphine | 0.4 mmol, 121 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.011 mol, 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.1 mmol, 22.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 700 ml | O | H2O
product | trans-3-[2-(N,N-dipropylamino)-1,2,3,4-tetrahydronaphth-6-yl]prop-2-enoic acid methyl ester | 0.9 g | COC(\C=C\C=1C=C2CCC(CC2=CC1)N(CCC)CCC)=O | C20H29NO2
